US04863942
In the course of approximately 5 minutes a solution of 1.9 ml (21 mmol) of chloro-oxalic acid methyl ester in 8 ml of methylene chloride is added dropwise to a solution, cooled to 0°, of 7.0 g (17.8 mmol) of 3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-methyl-6-chloroaniline and 22.2 g (21.4 mmol) of triethylamine in 100 ml of methylene chloride. The reaction mixture is stirred for a further 90 minutes at room temperature, poured onto ice-water and the organic phase is separated off. The methylene chloride phase is washed with water, dried over sodium sulphate and concentrated under reduced pressure. Crystallisation of the residue from methylene chloride/ether yields N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-methyl-6-chlorophenyl}-oxamic acid methyl ester having a melting point of 101°-102°.

reactant | chloro-oxalic acid methyl ester | 21 mmol, 1.9 ml | COC(C(=O)Cl)=O | C3H3ClO3
reactant | 3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-methyl-6-chloroaniline | 17.8 mmol, 7.0 g | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(N)C(=CC2C)Cl)C=C1)CCC)O | C21H26ClNO4
reactant | triethylamine | 21.4 mmol, 22.2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-methyl-6-chlorophenyl}-oxamic acid methyl ester | COC(C(=O)NC1=CC(=C(C=C1Cl)C)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C24H28ClNO7
